US05498737
3.0 g (20 mmol) of 4-bromopentene was dripped into a mixture of 0.5 g (21 mmol) of magnesium and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 7.1 g of 1-chloro-4-(trans-4-(2 -(3,4-difluorophenyl) ethyl) cyclohexyl)-1-silacyclohexane. The silacyclohexane rings of the reacted mixture thus obtained were a mixture of trans isomers and cis isomers. After a conventional after treatment, they were separated by means of chromatography to obtain 6.5 g (yield 83%) of trans-4-(trans-4-(2-(3,4-difluorophenyl) ethyl) cyclohexyl)-1-(4-pentenyl)-1-silacyclohexane.

reactant | 4-bromopentene | 20 mmol, 3.0 g | BrC(CC=C)C | C5H9Br
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 1-chloro-4-(trans-4-(2 -(3,4-difluorophenyl) ethyl) cyclohexyl)-1-silacyclohexane | 7.1 g | Cl[SiH]1CCC(CC1)[C@@H]1CC[C@H](CC1)CCC1=CC(=C(C=C1)F)F | C19H27ClF2Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | trans-4-(trans-4-(2-(3,4-difluorophenyl) ethyl) cyclohexyl)-1-(4-pentenyl)-1-silacyclohexane | 6.5 g, yield 83% | FC=1C=C(C=CC1F)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCCC=C | C24H36F2Si
